* /home/marten/Mixer/Mixer.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Sat Jul 21 05:45:41 2018

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
R5  Net-_C1-Pad1_ Net-_C1-Pad2_ 100k		
RV2  Net-_C4-Pad2_ Net-_R2-Pad1_ Net-_C3-Pad2_ 47k		
U1  Net-_C1-Pad1_ Net-_C1-Pad2_ GND -12VA GND Net-_C2-Pad2_ Net-_C2-Pad1_ Net-_C3-Pad1_ Net-_C3-Pad2_ GND +12VA GND Net-_C4-Pad2_ Net-_C4-Pad1_ TL074		
R6  Net-_C2-Pad1_ Net-_C2-Pad2_ 100k		
R7  Net-_C2-Pad2_ Net-_C1-Pad1_ 100k		
RV1  Net-_C2-Pad2_ Net-_R1-Pad1_ Net-_C1-Pad2_ 47k		
R8  Net-_J4-Pad1_ Net-_C2-Pad1_ 1k		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 47p		
C2  Net-_C2-Pad1_ Net-_C2-Pad2_ 47p		
R13  Net-_C3-Pad1_ Net-_C3-Pad2_ 100k		
R14  Net-_C4-Pad1_ Net-_C4-Pad2_ 100k		
R16  Net-_C4-Pad2_ Net-_C3-Pad1_ 100k		
R17  Net-_J7-Pad1_ Net-_C4-Pad1_ 1k		
C3  Net-_C3-Pad1_ Net-_C3-Pad2_ 47p		
C4  Net-_C4-Pad1_ Net-_C4-Pad2_ 47p		
J1  Net-_J1-Pad1_ GND ? Audio-Jack-2_Switch		
R2  Net-_R2-Pad1_ Net-_J1-Pad1_ 100k		
R1  Net-_R1-Pad1_ Net-_J1-Pad1_ 100k		
RV4  Net-_C4-Pad2_ Net-_R4-Pad1_ Net-_C3-Pad2_ 47k		
RV3  Net-_C2-Pad2_ Net-_R3-Pad1_ Net-_C1-Pad2_ 47k		
J3  Net-_J3-Pad1_ GND ? Audio-Jack-2_Switch		
R4  Net-_R4-Pad1_ Net-_J3-Pad1_ 100k		
R3  Net-_R3-Pad1_ Net-_J3-Pad1_ 100k		
RV6  Net-_C4-Pad2_ Net-_R11-Pad1_ Net-_C3-Pad2_ 47k		
RV5  Net-_C2-Pad2_ Net-_R9-Pad1_ Net-_C1-Pad2_ 47k		
J5  Net-_J5-Pad1_ GND ? Audio-Jack-2_Switch		
R11  Net-_R11-Pad1_ Net-_J5-Pad1_ 100k		
R9  Net-_R9-Pad1_ Net-_J5-Pad1_ 100k		
RV8  Net-_C4-Pad2_ Net-_R15-Pad1_ Net-_C3-Pad2_ 47k		
RV7  Net-_C2-Pad2_ Net-_R12-Pad1_ Net-_C1-Pad2_ 47k		
J6  Net-_J6-Pad1_ GND ? Audio-Jack-2_Switch		
R15  Net-_R15-Pad1_ Net-_J6-Pad1_ 100k		
R12  Net-_R12-Pad1_ Net-_J6-Pad1_ 100k		
J4  Net-_J4-Pad1_ GND ? Audio-Jack-2_Switch		
J7  Net-_J7-Pad1_ GND ? Audio-Jack-2_Switch		
R10  Net-_C2-Pad1_ GND 100k		
R18  Net-_C4-Pad1_ GND 100k		
D1  +12VA Net-_D1-Pad2_ DFLR1400-7		
D2  Net-_D2-Pad1_ -12VA DFLR1400-7		
J2  Net-_D1-Pad2_ Net-_D1-Pad2_ GND GND GND GND Net-_D2-Pad1_ Net-_D2-Pad1_ Conn_02x04_Odd_Even		
C5  +12VA GND 100n		
C7  GND -12VA 100n		
C6  +12VA GND 10u		
C8  GND -12VA 10u		

.end
